US06440966B1
Step d: Preparation of 3-Fluoro-4-methyl-benzene-N,N-dimethylsulfonamide
The compound 3-amino-4-methyl-benzene-N,N-dimethylsulfonamide is diazotized with an alkyl nitrite like tert-butyl nitrite under anhydrous conditions in a non-reactive solvent like tetrahydrofuran or dichloromethane. The intermediate diazonium species is then treated with pyridinium fluoride to give the product, which may be purified by chromatography or crystallization.

reactant | 3-amino-4-methyl-benzene N,N-dimethylsulfonamide | NC=1C=CC=CC1C.CN(S(=O)=O)C
reactant | tert-butyl nitrite | N(=O)OC(C)(C)C | C4H9NO2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | pyridinium fluoride | [F-].[NH+]1=CC=CC=C1
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-Fluoro-4-methyl-benzene N,N-dimethylsulfonamide | FC=1C=CC=CC1C.CN(S(=O)=O)C | InChI=1S/C7H7F.C2H7NO2S/c1-6-4-2-3-5-7(6)8;1-3(2)6(4)5/h2-5H,1H3;6H,1-2H3
